US09024027B2
Step 2. Preparation of (S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-(2-(5-(hydroxyamino)-1,3-dioxoisoindolin-2-yl)acetoxy)ethyl)pyridine 1-oxide (169)
(S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-(2-(5-nitro-1,3-dioxoisoindolin-2-yl)acetoxy)ethyl)pyridine 1-oxide (60 mg, 0.092 mmol) was dissolved in THF (5 ml), and added with tin(II) chloride dihydrate (25.0 mg, 0.111 mmol). The reaction was stirred at RT for 18 hours. THF was evaporated under vacuum at RT, and the residue quenched by addition of K2CO3/H2O (15% w/w; 50 ml) and extracted with EtOAc (50 ml). The organic phase was extracted with K2CO3/H2O (15% w/w) (×3), dried over Na2SO4 and the solvent removed under reduced pressure to yield the title compound (35.0 mg, 0.055 mmol, 60% yield). 1H NMR (400 MHz, acetone) ppm 8.80 (bs, 1H), 8.32 (bs, 1H), 8.18 (s, 2H), 7.70 (d, J=8.38 Hz, 1H), 7.36 (d, J=1.76 Hz, 1H), 7.28 (dd, J=8.16, 1.98 Hz, 1H), 7.15-7.23 (m, 2H), 7.03 (dd, J=8.38, 1.76 Hz, 1H), 6.93 (t, 1H, CHF2), 6.13 (dd, J=9.48, 4.63 Hz, 1H), 4.39 (s, 2H), 4.00 (dd, J=7.06, 3.09 Hz, 2H), 3.51 (dd, J=14.33, 9.48 Hz, 1H), 3.31 (dd, J=14.11, 4.41 Hz, 1H), 1.24-1.36 (m, 1H), 0.53-0.71 (m, 2H), 0.31-0.49 (m, 2H). MS/ESI+ [MH]+=637.9

reactant | (S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-(2-(5-nitro-1,3-dioxoisoindolin-2-yl)acetoxy)ethyl)pyridine 1-oxide | 0.092 mmol, 60 mg | ClC=1C=[N+](C=C(C1C[C@H](OC(CN1C(C2=CC=C(C=C2C1=O)[N+](=O)[O-])=O)=O)C1=CC(=C(C=C1)OC(F)F)OCC1CC1)Cl)[O-] | C28H21Cl2F2N3O9
reactant | tin(II) chloride dihydrate | 0.111 mmol, 25.0 mg | O.O.[Sn](Cl)Cl
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | (S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-(2-(5-(hydroxyamino)-1,3-dioxoisoindolin-2-yl)acetoxy)ethyl)pyridine 1-oxide | 0.055 mmol, 35.0 mg, 60% yield | ClC=1C=[N+](C=C(C1C[C@H](OC(CN1C(C2=CC=C(C=C2C1=O)NO)=O)=O)C1=CC(=C(C=C1)OC(F)F)OCC1CC1)Cl)[O-] | C28H23Cl2F2N3O8
